US05075046
Vicinal Dibutanoyl Stearic Acid Isooctyl Ester
1 Mol epoxidized oleic acid isooctyl ester (epoxide oxygen content 3.82%), 2 mol butyric anhydride, 10 mol % butyric acid and 1.5 mol % concentrated sulfuric acid were reacted for 6.5 hours at 150° C. as described in Example 2. A product having the following analysis was obtained after the removal by distillation of volatile constituents up to 135° C. in an oil pump vacuum (below 1 torr): epoxide oxygen content 0.20%, OH value 2.6, acid value 1.5, saponification value 237.6, iodine value 8.8.

reactant | oleic acid isooctyl ester | 1 Mol | C(CCCCC(C)C)OC(CCCCCCC\C=C/CCCCCCCC)=O | C26H50O2
reactant | butyric anhydride | 2 mol | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Dibutanoyl Stearic Acid Isooctyl Ester | C(CCCCC(C)C)OC(C(CCCCCCCCCCCCCCCC)(C(CCC)=O)C(CCC)=O)=O | C34H64O4
